US06028074
3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
Lithium diisopropylamide (3.3 mmol) was added to a solution of 5-methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)dione (600 mg) and 3-{[dimethyl(1,1-dimethylethyl)silyl]oxy }propyl 4-methylphenylthiosulfonate (J. Med. Chem. 1995, 38, 2557) (720 mg) in tetrahydrofuran (20 ml) cooled to -78° C. After 2 hours the reaction mixture was warmed to ambient temperature and after a further hour quenched with water. The reaction mixture was diluted with ethyl acetate and was washed twice with dilute hydrochloric acid, twice with saturated sodium hydrogen carbonate solution, once with brine, and then dried over magnesium sulfate, filtered and concentrated. The residue was dissolved in tetrahydrofuran (20 ml) and tetrabutylammonium fluoride (1 M in tetrahydrofuran, 2 ml) was added. After 18 hours the reaction mixture was quenched with saturated sodium hydrogen carbonate solution and extracted with ether. The ether extract was washed once with water and once with brine, then dried over magnesium sulfate, filtered and concentrated. Chromatography of the residue on silica gel (isohexane:ethyl acetate 1:1-1:2) followed by preparative reverse phase HPLC and recrystallisation from isohexane : ethyl acetate gave the title compound (156 mg).

reactant | Lithium diisopropylamide | 3.3 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)dione | 600 mg | CN1C(N(C=2C(C1=O)=CN(N2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C21H22N4O2
reactant | 3-{[dimethyl(1,1-dimethylethyl)silyl]oxy }propyl 4-methylphenylthiosulfonate | 720 mg | CC1=CC=C(C=C1)S(=S)(=O)OCCCO[Si](C(C)(C)C)(C)C | C16H28O3S2Si
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[(3-Hydroxypropyl)thio]-5-methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 156 mg | OCCCSC=1N(N=C2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C24H28N4O3S
